US08530460B2
5-tert-Butyl-2-chloropyrimidine
200 mL POCl3 and 14 g (0.09 mol) 5-tert-butylpyrimidin-2(1H)-one are heated in a sealed glass ampoule for 3 h at 160° C. The mixture is cooled and the excess

reactant | 5-tert-butylpyrimidin-2(1H)-one | 0.09 mol, 14 g | C(C)(C)(C)C=1C=NC(NC1)=O | C8H12N2O
reactant | POCl3 | 200 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-tert-Butyl-2-chloropyrimidine | C(C)(C)(C)C=1C=NC(=NC1)Cl | C8H11ClN2
